US04831151
1.18 g (7.9 mmol) of p-dimethylaminobenzaldehyde are added to a solution of 2.7 g (7.9 mmol) of 1-amino-2-ethyl-3-(p-methoxyphenacyl)-2-ethylimidazolium bromide in 40 ml of glacial acetic acid. The mixture is stirred at room temperature for 4 days, the product is crystallized out by the addition of ether and filtered off. It is washed with water, dried at room temperature and recrystallized from ethanol. There is obtained 1-[[p-(dimethylamino)benzylidene]amino]-2-ethyl-3-(p-methoxyphenacyl)-imidazolium bromide of melting point 244°-246°.

reactant | p-dimethylaminobenzaldehyde | 7.9 mmol, 1.18 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1-amino-2-ethyl-3-(p-methoxyphenacyl)-2-ethylimidazolium bromide | 7.9 mmol, 2.7 g | [Br-].N[NH+]1C(N(C=C1)CC(=O)C1=CC=C(C=C1)OC)(CC)CC
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-ethyl-3-(p-methoxyphenacyl)-imidazolium bromide | [Br-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)CC(=O)C2=CC=C(C=C2)OC)CC)C=C1)C | InChI=1S/C23H27N4O2.BrH/c1-5-23-26(17-22(28)19-8-12-21(29-4)13-9-19)14-15-27(23)24-16-18-6-10-20(11-7-18)25(2)3;/h6-16H,5,17H2,1-4H3;1H/q+1;/p-1
